US05516774
N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-3-chlorophenyl]-5-fluoro-2-methylbenzamide
To a solution of 1.84 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 25 ml of methylene chloride is added 1.30 g of N,N-diisopropylethylamine. While cooling in an ice bath, a solution of 3.45 g of [4-[(2-methyl-5-fluorobenzoyl)amino]-2-chlorobenzoyl chloride in 50 ml of methylene chloride is added. The reaction mixture becomes homogeneous after 5 minutes and is stirred at room temperature for 18 hours. Water is added and the separated organic layer washed with saturated sodium bicarbonate, dried with Na2SO4 and passed through a short pad of hydrous magnesium silicate. The methylene chloride is removed in vacuo to give 4.60 g of the desired product as a glass. A sample is crystallized from ethyl acetate to give crystalline solid, m.p. 191°-195° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.84 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 1.30 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[(2-methyl-5-fluorobenzoyl)amino]-2-chlorobenzoyl chloride | CC1=C(C(=O)NC2=CC(=C(C(=O)Cl)C=C2)Cl)C=C(C=C1)F | C15H10Cl2FNO2
reactant | Water | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-3-chlorophenyl]-5-fluoro-2-methylbenzamide | 4.60 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=C(C=C(C=C1)NC(C1=C(C=CC(=C1)F)C)=O)Cl | C27H21ClFN3O2
